US06107329
B. (±)-[1-(2-Fluorobenzyl)-2-oxo-2-thiazolidin-3-yl-ethyl]-carbamic acid tert-butyl ester
To a mixture of 2-tert-butoxycarbonylamino-3-(2-fluoro-phenyl)-propionic acid (0.50 g, 1.77 mmol), thiazolidine (0.15 mL, 1.94 mmol) and 4-dimethylamino-pyridine (0.21 g, 1.77 mmol) in dichloromethane (15 mL) was added EDC (0.44 g, 2.31 mmol). The reaction mixture was stirred at room temperature overnight, diluted with chloroform, washed with 2 N HCl, water and brine, dried over magnesium sulfate and concentrated. The product was purified by flash-chromatography (30% acetone in hexanes) and obtained as a colorless solid (0.39 g, 62%, mp 133-134° C.).

reactant | 2-tert-butoxycarbonylamino-3-(2-fluoro-phenyl)-propionic acid | 1.77 mmol, 0.50 g | C(C)(C)(C)OC(=O)NC(C(=O)O)CC1=C(C=CC=C1)F | C14H18FNO4
reactant | thiazolidine | 1.94 mmol, 0.15 mL | S1CNCC1 | C3H7NS
reactant | EDC | 2.31 mmol, 0.44 g
catalyst | 4-dimethylamino-pyridine | 1.77 mmol, 0.21 g | CN(C1=CC=NC=C1)C | C7H10N2
solvent | dichloromethane | 15 mL | ClCCl | CH2Cl2
solvent | chloroform | C(Cl)(Cl)Cl | CHCl3
product | (±)-[1-(2-Fluorobenzyl)-2-oxo-2-thiazolidin-3-yl-ethyl]-carbamic acid tert-butyl ester | 0.39 g, 62% | C(C)(C)(C)OC(NC(C(N1CSCC1)=O)CC1=C(C=CC=C1)F)=O | C17H23FN2O3S
